US08003649B2
Potassium hydroxide (5.17 g, 92.08 mmol) was added to 1H-indole-5-carboxylic acid (3.71 g, 23.02 mmol) and tert-butyl 4-oxopiperidine-1-carboxylate (9.17 g, 46.04 mmol) in methanol (80 mL) at ambient temperature and the resulting solution was stirred at 65° C. for 18 hours. The mixture was then cooled to ambient temperature, quenched in water (100 mL) and extracted with ethyl acetate (2×100 mL). The extracts were discarded and the aqueous phase acidified to pH 2-3 wth 2M hydrochloric acid to give a pale yellow solid. The solid was collected by filtration, washed sequentially with water and ether and air dried to give 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylic acid (5.62 g, 71.3%) as a colourless solid.

reactant | Potassium hydroxide | 92.08 mmol, 5.17 g | [OH-].[K+]
reactant | 1H-indole-5-carboxylic acid | 23.02 mmol, 3.71 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 46.04 mmol, 9.17 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | methanol | 80 mL | CO | CH4O
product | 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylic acid | 5.62 g, 71.3% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C(=O)O | C19H22N2O4
